US08183280B2
B. (2S)-2-(2-Methoxybenzoylamino)-3-methylpentanoic acid
(2S)-2-(2-Methoxybenzoylamino)-3-methylpentanoic acid tertbutyl ester (341 mg, 1.06 mmol) was dissolved in trifluoroacetic acid/CH2Cl2 (1:1, 10 ml). After 2 h at room temperature the solvent was removed in vacuo and the residue was purified by flash chromatography (eluant: 1% acetic acid, 2% methanol, 97% chloroform) to give a colourless oil identified as the title compound (242 mg, 0.91 mmol, 86%).

reactant | (2S)-2-(2-Methoxybenzoylamino)-3-methylpentanoic acid tertbutyl ester | 1.06 mmol, 341 mg | C(C)(C)(C)OC([C@H](C(CC)C)NC(C1=C(C=CC=C1)OC)=O)=O | C18H27NO4
solvent | trifluoroacetic acid CH2Cl2 | 10 ml | FC(C(=O)O)(F)F.C(Cl)Cl
product | (2S)-2-(2-Methoxybenzoylamino)-3-methylpentanoic acid | 0.91 mmol, 242 mg, 86% | COC1=C(C(=O)N[C@H](C(=O)O)C(CC)C)C=CC=C1 | C14H19NO4
